US05278316
Tricyclo[3.3.1.1.3,7 ]dec-2-yl (±)-[1-(1H-indol-3-ylmethyl)-1-methyl-2-oxo-2-[[2-(2-pyridinyl)ethyl]amino]ethyl]carbamate
To a solution of 2-adamantyloxycarbonyl-α-methyl-DL-tryptophan (0.400 g, 1.01 mmol) in ethyl acetate (6 mL) and N,N-dimethylformamide (4 mL) under nitrogen atmosphere was added 1-hydroxybenzotriazole (0.138 g, 1.20 mmol) followed by 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.198 g, 1.03 mmol). This mixture was stirred 2 hours and 2(2-aminoethyl)pyridine (0.16 mL, 1.3 mmol) was added. After stirring an additional 18 hours, the resulting mixture was diluted with ethyl acetate (20 mL), and washed with aqueous 1N citric acid, aqueous saturated sodium bicarbonate, and brine solutions. The organic phase was dried over MgSO4, concentrated, and purified by flash chromatography (SiO2, 230-400 mesh, ethyl acetate eluant). After concentration, the residue was dried under vacuum at 60° C. for 48 hours to provide 0.365 g (72%) of product; 1H NMR (CDCl3) δ 1.40-1.60 (2H, m), 1.56 (3H, s), 1.65-1.95 (12H, m), 2.88 (2H, t, J 6 Hz), 3.39 (2H, d, J 5 Hz), 3.50-3.70 (2H, m), 4.75 (1H, br s), 5.35 (1H, br s), 6.40 (1H, d, J 2 Hz), 7.00-7.20 (4H, m), 7.22-7.35 (2H, m), 7.52-7.60 (2H, m), 8.20 (1H, br s), 8.40-8.45 (1H, m).

reactant | 2-adamantyloxycarbonyl-α-methyl-DL-tryptophan | 1.01 mmol, 0.400 g | C12C(C3CC(CC(C1)C3)C2)OC(=O)NC(CC2=CNC3=CC=CC=C23)(C(=O)O)C | C23H28N2O4
reactant | 1-hydroxybenzotriazole | 1.20 mmol, 0.138 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.03 mmol, 0.198 g | Cl.CN(CCCN=C=NCC)C
reactant | 2(2-aminoethyl)pyridine | 1.3 mmol, 0.16 mL | NCCC1=NC=CC=C1 | C7H10N2
solvent | ethyl acetate | 6 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | dec-2-yl (±)-[1-(1H-indol-3-ylmethyl)-1-methyl-2-oxo-2-[[2-(2-pyridinyl)ethyl]amino]ethyl]carbamate | 0.365 g, 72% | N1C=C(C2=CC=CC=C12)CC(C(NCCC1=NC=CC=C1)=O)(C)NC(OC(C)CCCCCCCC)=O | C30H42N4O3
